2144-09-22 16:26:00 Physician Attending Progress Note
Chief Complaint: Tachycardia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See [**Hospital Ward Name 51**] MICU Admission/Transfer note per Dr. [**First Name (STitle) 272**] [**2144-9-22**].
   24 Hour Events:
   Patient transferred back to MICU for management of A-fib with RVR.
   59 yof obese,mental retardation, lymphoma (Hodgkin's, nodular
   sclerosing) --> chemotherapy, pericardial effusion (s/p drainage, and
   s/p pericardial window [**8-18**]), remote left nephrectomy, initially
   admitted to MICU [**Hospital Ward Name 51**] service this hospitalization [**2144-9-19**] for A-fib
   with RVR.  [**Hospital1 54**] ER evaluation revealed Afib with HR 120-150, SBP= 110
   mmHg,  treatment included iv amiodarone bolus, iv fluid bolus, and
   beta-blocker.  Transferred to MICU service, and noted to be in NSR.
   Following brief observation period, transferred to BMT service.
   This AM,while on  BMT service noted to be in A-fib with HR >150, SBP 95
   mmHg.  Received iv fluid boluses total 1 L, Lopressor 5 mg x3,
   Lopressor 25 mg PO x1 and Amiodarone 200 mg PO x1 without change in
   HR.  Now transferred to MICU service for further evaluation and
   management.
   Recent prolonged [**Hospital1 54**] hospitalization [**Date range (1) 4222**] complicated by
   recurrent A-fibrillation and RVR, treated with Amiodarone and
   beta-blocker.  Reverted to NSR.
   Upon transfer to MICU, offers no complaints.  Denies dyspnea, chest
   pain, palpitations.  Recent cardiac echo ([**2144-9-21**]) without evidence for
   significant pericardial effusion or tamponade.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Mental Retardation (moderate)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-9-19**] 04:16 PM
   Linezolid - [**2144-9-19**] 05:56 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-9-22**] 04:25 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.8
C (94.7
   Tcurrent: 34.8
C (94.7
   HR: 152 (148 - 158) bpm
   BP: 120/77(88) {71/46(55) - 120/77(88)} mmHg
   RR: 24 (24 - 37) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             644 mL
   PO:
             TF:
   IVF:
   644 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    644 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   319 K/uL
   105 mg/dL
   0.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   12 mg/dL
   108 mEq/L
   138 mEq/L
   24.5 %
   3.6 K/uL
        [image002.jpg]
                             [**2144-9-19**]  02:14 PM
   WBC
   3.6
   Hct
   24.5
   Plt
   319
   Cr
   0.2
   Glucose
   105
   Other labs: Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR: ([**2144-9-22**]) enlarged cardiac silouhette, bilateral lower
   lung field densities, unchanged from [**2144-9-19**].
   Assessment and Plan
   Paroxysmal Atrial-fibrillation with rapid ventricular response.
   A-FIB -- Recurrent, paroxysmal.  Likely attributable to local
   irritation (bloody pericardial effusion/inflammation, pericardial
   mass/adenopathy).  Cardiology Consultation.  Plan to resume amiodarone
   load to complete, then resume.  Prior poor control may be related to
   unreliable GI tract and variable absorption of medications (ileus).
   Monitor HR, aim for HR<120 and normotensive BP.  r/o MI protocol.
   Monitor for new infection in context of neutropenia.
   PLEURAL EFFUSIONS -- no evidence for new acute infiltrate.  Possible
   related to pericaridal effusion vs. inflammatory effusions related to
   malignancy.
   HYPOTENSION -- Transient, and resonsive to iv fluid challenges.  Likely
   related to medication administration.  Continue iv fluid boluses to
   maintain MAP >60.
   LYMPHOMA, Hodgkin's -- s/p chemotherapy.  Monitor.
   PERICARDIAL EFFUSION -- ?malignant; s/p pericardial window.   No
   evidence for pericardial effusion reaccumulation.
   NEUTROPENIA -- s/p chemotherapy.  Monitor.
   ILEUS -- chronic.  Monitor.
   C. Diff -- completed therapeutic course.  Currently on PO vanco.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-9-22**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2144-09-23 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2144-9-22**] 11:00 AM
   double lumen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-9-22**] 11:51 PM
   Acyclovir - [**2144-9-23**] 01:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-9-23**] 02:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-9-23**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 108 (98 - 160) bpm
   BP: 108/80(85) {71/26(55) - 132/80(92)} mmHg
   RR: 35 (21 - 41) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    999 mL
                                                                    648 mL
   PO:
             TF:
   IVF:
                                                                    999 mL
                                                                    648 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    160 mL
   Urine:
                                                                    545 mL
                                                                    160 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    214 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   319 K/uL
   8.9 g/dL
   161 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   107 mEq/L
   138 mEq/L
   25.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-9-19**]  02:14 PM
                             [**2144-9-23**]  04:44 AM
   WBC
   3.6
   0.1
   Hct
   24.5
   25.6
   Plt
   319
   Cr
   0.2
   0.2
   Glucose
   105
   161
   Other labs: PT / PTT / INR:14.3/29.6/1.2, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN:
   59F with mental retardation w/ recent dx of Nodular sclerosing Hodgkins
   Lymphoma s/p chemo; readmitted to ICU for Afib with RVR.
   .
   # Atrial fibrillation:  Unclear precipitant.  Pt afebrile, but in the
   past, Afib was responsive to IVF boluses, so there may be a component
   of dehydration as a precipitant.  Pt has an amiodarone load in the ED
   on [**9-19**] and was sinus until this AM with po medications.
   - appreciate cardiology input
   - IV amiodarone 150 mg infusion over 20 minutes, watching for
   hypotension and bradycardia as pt had h/o hypotension with amiodarone
   - IVF boluses prn
   - hold lasix
   - hold po metoprolol until pt hemodynamically stable
   - hold amiodarone po for now
   - EKG on admission to [**Hospital Unit Name 44**]
   - no heparin gtt given h/o hemopericardium
   .
   # Hemopericardium: Moderate pericardial effusion per ECHO on [**2144-9-15**]
   without evidence of tamponade.  [**9-21**] ECHO showed smaller effusion
   without tamponade physiology.
   - continue to monitor VS
   - should VS become deranged, would check pulsus and consider repeat
   echo
   .
   # Neutropenia:
   - continue GCSF per BMT service
   - monitor daily ANCs
   - maintain neutropenic precautions
   - should patient become febrile, would start cefepime
   - f/u BCx
   .
   # ? LUL infiltrate: per read on [**9-19**] CXR.  BMT team notified that pt now
   with cough.
   - obtain portable CXR
   - check sputum culture
   - if pt spikes, would cover with cefepime as pt neutropenic
   .
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy.
   Completed one cycle of chemo, c/b c. diff colitis and oral/genital
   herpes.
   - BMT service to follow while in ICU
   .
   # UTI: s/p linezolid and ceftriaxone complete course
   - f/u repeat UCx
   .
   # Anemia: Chronic, iron deficiency anemia and now s/p chemo.
   - maintain Hct >25, plt >75 given hemopericardium
   .
   # R upper limb DVT: US on [**8-31**] showed superficial thrombus.
   - no anticoagulation for now given h/o hemopericardium
   .
   # Ileus/abdominal distention:
   - frequent patient repositioning
   - rectal tube if significant symptoms.
   - simethicone prn
   .
   # h/o C. diff: s/p IV flagyl that was completed on [**2144-8-30**]
   - continue po vancomycin
   .
   # HSV oral ulcer: Treated with ACV
   - contine ACV ppx dose
   .
   # F/E/N: IVFs prn / replete lytes prn / regular, neutropenic diet with
   soft, thin liquids
   .
   # PPX: heparin SQ, PPI
   .
   # CODE: Intubate but no compressions
   - will further elucidate wishes of HCP
   .
   # ACCESS: peripheral and L PICC
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-9-22**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-09-23 12:44:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   HPI:
   24 Hour Events:
 PICC LINE - START [**2144-9-22**] 11:00 AM
   double lumen
   Amiodarone infusion started last PM --> HR improved to approx.
   100-110.  Remains on constant infusion.  Hemodynamically stable.
   No new symptoms.
   Offers no new complaints.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Mental retardation (mod)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2144-9-23**] 08:30 AM
   Cefipime - [**2144-9-23**] 08:57 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-9-23**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, Intermittent aggitation
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-9-23**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 91 (91 - 160) bpm
   BP: 114/52(67) {71/26(55) - 132/80(92)} mmHg
   RR: 21 (20 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,000 mL
                                                                    884 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    884 mL
   Blood products:
   Total out:
                                                                    785 mL
                                                                    240 mL
   Urine:
                                                                    545 mL
                                                                    240 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    215 mL
                                                                    644 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   69 K/uL
   161 mg/dL
   0.2 mg/dL
   27 mEq/L
   3.4 mEq/L
   11 mg/dL
   107 mEq/L
   138 mEq/L
   25.6 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-9-19**]  02:14 PM
                             [**2144-9-23**]  04:44 AM
   WBC
   3.6
   0.1
   Hct
   24.5
   25.6
   Plt
   319
   69
   Cr
   0.2
   0.2
   Glucose
   105
   161
   Other labs: PT / PTT / INR:14.3/29.6/1.2, Differential-Neuts:7.0 %,
   Band:0.0 %, Lymph:90.0 %, Mono:0.0 %, Eos:3.0 %, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Recurrent A-fib with rapid ventricular response.
   A-FIBRILLATION -- recurrent.  Multifactorial.  Improved response to
   current medications.  Await final recommendation per Cardiology for
   continued pharmacological regimen.  Check EKG.  Continue metoprolol.
   LYMPHOMA --  s/p chemotherapy.  Assess plans for additional chemorx.
   NEUTROPENIA -- recent chemotherapy.  Maintain precautions.  Monitor
   WBC.  Continue GM-CSF.
   C. Diff -- continue Vanco PO to complete course.
   FLUIDS -- hypovolemia, mild.  Improved with resussitation over past 24
   hrs.  Follow I/O.
   PERICARDIAL EFFUSION -- bloody s/p drainage and pericardial window.  No
   significant reaccumulation by ECHO.
   PLEURAL EFFUSIONS -- possibly related to lymphoma, pericardial disease
   vs. transudative.
   ILEUS -- chronic.  Will influence PO medications to control a-fib.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-9-22**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 55 minutes

2144-09-24 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2144-9-24**] 12:00 AM
   Acyclovir - [**2144-9-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-9-23**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-9-24**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 97 (85 - 107) bpm
   BP: 102/48(61) {89/40(52) - 193/151(156)} mmHg
   RR: 28 (16 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,831 mL
                                                                    186 mL
   PO:
                                                                    740 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,091 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                    355 mL
   Urine:
                                                                  1,180 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    651 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   8.0 g/dL
   107 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   12 mg/dL
   110 mEq/L
   142 mEq/L
   23.3 %
   0.1 K/uL
        [image002.jpg]
                             [**2144-9-19**]  02:14 PM
                             [**2144-9-23**]  04:44 AM
                             [**2144-9-24**]  04:54 AM
   WBC
   3.6
   0.1
   Hct
   24.5
   25.6
   23.3
   Plt
   319
   69
   Cr
   0.2
   0.2
   0.2
   Glucose
   105
   161
   107
   Other labs: PT / PTT / INR:14.3/29.6/1.2, Differential-Neuts:7.0 %,
   Band:0.0 %, Lymph:90.0 %, Mono:0.0 %, Eos:3.0 %, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   59F with mental retardation w/ recent dx of Nodular sclerosing Hodgkins
   Lymphoma s/p chemo; readmitted to ICU for Afib with RVR.
   .
   # Atrial fibrillation:  Unclear precipitant. (? pneumonia).  Pt has
   converted to sinus last PM with Amio gtt.
   - appreciate cardiology input
   - IV amiodarone gtt will d/c a t 18:30
   - call cards for PO amio dose
   - IVF boluses prn
   - Lasix and Metoprolol home doses started this AM
   - EKG today
   - no heparin gtt given h/o hemopericardium
   .
   # Neutropenia:
   - continue GCSF per BMT service
   - monitor daily ANCs
   - maintain neutropenic precautions
   - Started cefepime
   - f/u BCx
   .
   # ? LUL infiltrate: per read on [**9-19**] CXR.
   - Patient started on cefepime as pt neutropenic
   .
   # Hemopericardium: Moderate pericardial effusion per ECHO on [**2144-9-15**]
   without evidence of tamponade.  [**9-21**] ECHO showed smaller effusion
   without tamponade physiology.
   - continue to monitor VS
   - should VS become deranged, would check pulsus and consider repeat
   echo
   .
   # Lymphoma: NSHL as per pathology from supraclavicular LN biopsy.
   Completed one cycle of chemo, c/b c. diff colitis and oral/genital
   herpes.
   - BMT service to follow while in ICU
   .
   # UTI: s/p linezolid and ceftriaxone complete course
   - f/u repeat UCx
   .
   # Anemia: Chronic, iron deficiency anemia and now s/p chemo.
   - maintain Hct >25, plt >75 given hemopericardium
   .
   # R upper limb DVT: US on [**8-31**] showed superficial thrombus.
   - no anticoagulation for now given h/o hemopericardium
   .
   # Ileus/abdominal distention: Last BM on [**2144-9-21**]
   - frequent patient repositioning
   - rectal tube if significant symptoms.
   - simethicone prn
   .
   # h/o C. diff: s/p IV flagyl that was completed on [**2144-8-30**]
   - continue po vancomycin
   .
   # HSV oral ulcer: Treated with ACV
   - contine ACV ppx dose
   .
   # F/E/N: IVFs prn / replete lytes prn / regular, neutropenic diet with
   soft, thin liquids
   .
   # PPX: heparin SQ, PPI
   .
   # CODE: Intubate but no compressions
   - will further elucidate wishes of HCP
   .
   # ACCESS: peripheral and L PICC
   .
   # CONTACT: HCP - brother [**Name (NI) 3080**] [**Telephone/Fax (1) 3081**] (mobile) and [**Telephone/Fax (1) 3082**]
   (home); brother also gave permission to speak with his wife [**Name (NI) **]
   .
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2144-9-22**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: